simulator lang=spectre
global 0
parameters Wpmos_in Wnmos_follower L_Radius
R12_1__dmy0  (VB_IN R12_1__dmy0 ) res l=2u w=500n m=1 multi=(1)
R12_2__dmy0  (R12_1__dmy0 R12_2__dmy0 ) res l=2u w=500n m=1 multi=(1)
R12_3__dmy0  (R12_2__dmy0 vss ) res l=2u w=500n m=1 multi=(1)
//End of R12
 
R4 (VB_IN VB_IN ) res l=2u w=2u m=6 multi=(1)
R5 (VB_IN VB_IN ) res l=2u w=2u m=6 multi=(1)
R6 (VB_IN VB_IN ) res l=2u w=2u m=6 multi=(1)
R7 (VB_IN VB_IN ) res l=2u w=2u m=6 multi=(1)
R8 (VB_IN VB_IN ) res l=2u w=2u m=6 multi=(1)
R10 (VB_IN VB_IN ) res l=2u w=2u m=6 multi=(1) 
R11 (vdd vdd ) res l=2u w=500n m=1 multi=(26) 
R14 (vdd vdd ) res l=2u w=500n m=1 multi=(26) 
R15 (vdd vdd ) res l=5u w=400n m=1 multi=(16) 
R9 (Inp_buff2 vdd ) res l=5u w=400n m=1 multi=(1) 
R29 (vdd Inn_buff2 ) res l=5u w=400n m=1 multi=(1)
 
//Series configuration of R21
R21_1__dmy0  (vdd R21_1__dmy0 ) res l=2u w=500n m=1 multi=(1)
R21_2__dmy0  (R21_1__dmy0 R21_2__dmy0 ) res l=2u w=500n m=1 multi=(1)
R21_3__dmy0  (R21_2__dmy0 R21_3__dmy0 ) res l=2u w=500n m=1 multi=(1)
R21_4__dmy0  (R21_3__dmy0 R21_4__dmy0 ) res l=2u w=500n m=1 multi=(1)
R21_5__dmy0  (R21_4__dmy0 R21_5__dmy0 ) res l=2u w=500n m=1 multi=(1)
R21_6__dmy0  (R21_5__dmy0 R21_6__dmy0 ) res l=2u w=500n m=1 multi=(1)
R21_7__dmy0  (R21_6__dmy0 VB_IN ) res l=2u w=500n m=1 multi=(1)
//End of R21
 
R33 (Inp_buff VB_IN ) res l=2u w=2u m=6 multi=(1)
 
//Series configuration of R13
R13_1__dmy0  (vdd R13_1__dmy0 ) res l=2u w=500n m=1 multi=(1)
R13_2__dmy0  (R13_1__dmy0 R13_2__dmy0 ) res l=2u w=500n m=1 multi=(1)
R13_3__dmy0  (R13_2__dmy0 R13_3__dmy0 ) res l=2u w=500n m=1 multi=(1)
R13_4__dmy0  (R13_3__dmy0 R13_4__dmy0 ) res l=2u w=500n m=1 multi=(1)
R13_5__dmy0  (R13_4__dmy0 R13_5__dmy0 ) res l=2u w=500n m=1 multi=(1)
R13_6__dmy0  (R13_5__dmy0 R13_6__dmy0 ) res l=2u w=500n m=1 multi=(1)
R13_7__dmy0  (R13_6__dmy0 VB_IN ) res l=2u w=500n m=1 multi=(1)
//End of R13
 
R32 (VB_IN Inn_buff ) res l=2u w=2u m=6 multi=(1)
 
//Series configuration of R18
R18_1__dmy0  (VB_IN R18_1__dmy0 ) res l=2u w=500n m=1 multi=(1)
R18_2__dmy0  (R18_1__dmy0 R18_2__dmy0 ) res l=2u w=500n m=1 multi=(1)
R18_3__dmy0  (R18_2__dmy0 vss ) res l=2u w=500n m=1 multi=(1)
//End of R18
 
C17 (voutp_buf1 Inp_buff2 vdd) cap nr=120 lr=40u w=50n s=50n stm=1 \
C32 (voutn_buf1 Inn_buff2 vdd) cap nr=120 lr=40u w=50n s=50n stm=1 \
C22 (Inp_buff INp vdd) cap nr=40 lr=40u w=50n s=50n stm=1 spm=7 \
C21 (Inn_buff INn vdd) cap nr=40 lr=40u w=50n s=50n stm=1 spm=7 \
C19 (VB_IN vss vdd) cap nr=80 lr=40u w=75.0n s=50n stm=3 spm=7 \
 
M29 (net0126 B2 vdd vdd) pmos l=30n w=10u multi=1 nf=10  \
M28 (net0124 B1 vdd vdd) pmos l=30n w=10u multi=1 nf=10  \
M27 (net0119 B0 vdd vdd) pmos l=30n w=10u multi=1 nf=10  \
M26 (net0131 B3 vdd vdd) pmos l=30n w=10u multi=1 nf=10   \
M25 (vx1 net0124 vdd vdd) pmos l=300n w=24.0u multi=1 nf=8 \
M24 (vx1 net0119 vdd vdd) pmos l=300n w=12.0u multi=1 nf=4 \
M23 (vx1 net0126 vdd vdd) pmos l=300n w=48.0u multi=1 nf=16 \
M22 (vx1 VBiasp vdd vdd) pmos l=300n w=120.00000u multi=1 nf=40 \
M21 (vx1 net0131 vdd vdd) pmos l=300n w=96.0u multi=1 nf=32 \
M18 (voutp_buf1 Inn_buff vx1 vdd) pmos l=30n w=1e-06*Wpmos_in multi=1 nf=Wpmos_in \ 
M17 (voutn_buf1 Inp_buff vx1 vdd) pmos l=30n w=1e-06*Wpmos_in multi=1 nf=Wpmos_in \
 
M14 (VBiasp VBiasp vdd vdd) pmos l=300n w=6u multi=1 nf=2 \
M16 (vdd vdd vx1 vdd) pmos l=30n w=2u multi=1 nf=2 \
M15 (vdd vdd vdd vdd) pmos l=300n w=12.0u multi=1 nf=4  \
M44 (OUTp2 vss vss vss) nmos l=200n w=2u multi=1 nf=1 \
M43 (OUTn2 vss vss vss) nmos l=200n w=2u multi=1 nf=1  \
M45 (vss vss vss vss) nmos l=300n w=2u multi=1 nf=2  \
M51 (net0131 B3 VBiasp vss) nmos l=30n w=1u multi=1 nf=1  \
M52 (net0119 B0 VBiasp vss) nmos l=30n w=1u multi=1 nf=1  \
M50 (net0126 B2 VBiasp vss) nmos l=30n w=1u multi=1 nf=1  \
M53 (net0124 B1 VBiasp vss) nmos l=30n w=1u multi=1 nf=1  \
 
 
M39 (vdd vss vdd vss) nmos l=200n w=4u multi=1 nf=2  \
    
M64 (vdd Inn_buff2 OUTn1 vss) nmos l=200n w=2e-06*Wnmos_follower \
        multi=1 nf=Wnmos_follower  \
      
M63 (vdd Inp_buff2 OUTp1 vss) nmos l=200n w=2e-06*Wnmos_follower \
        multi=1 nf=Wnmos_follower  \
        
M48 (VBiasp Ibias_200u vss vss) nmos l=300n w=4u multi=1 nf=2 \
        
M47 (Ibias_200u Ibias_200u vss vss) nmos l=300n w=4u multi=1 nf=2 \
       
M46 (vss Ibias_200u vss vss) nmos l=300n w=4u multi=1 nf=2 \
        
M35 (vdd Inn_buff2 OUTn2 vss) nmos l=200n w=2e-06*Wnmos_follower \
        multi=1 nf=Wnmos_follower \
        
M36 (OUTn2 Ibias_200u vss vss) nmos l=300n w=20u multi=1 nf=20 \
       
M37 (OUTp2 Ibias_200u vss vss) nmos l=300n w=20u multi=1 nf=20 \
       
M38 (vdd Inp_buff2 OUTp2 vss) nmos l=200n w=2e-06*Wnmos_follower \
        multi=1 nf=Wnmos_follower  \
        
M34 (OUTp1 Ibias_200u vss vss) nmos l=300n w=20u multi=1 nf=20 \
        
M32 (OUTn1 Ibias_200u vss vss) nmos l=300n w=20u multi=1 nf=20 \
       
M57 (vss vss vss vss) nmos l=300n w=2u multi=1 nf=2  \
       
M69 (OUTp1 vss vss vss) nmos l=200n w=2u multi=1 nf=1  \
       
M70 (OUTn1 vss vss vss) nmos l=200n w=2u multi=1 nf=1  \
    
M49 (VBiasp vss vss vss) nmos l=300n w=4u multi=1 nf=2 \
      
M71 (vdd vss vdd vss) nmos l=200n w=4u multi=1 nf=2  \
 
 
L0 (voutn_buf1 vss vss) inductor multi=1 gdis=13.0u lay=9 nr=2 \
        rad=L_Radius spacing=3u w=3u
L1 (voutp_buf1 vss vss) inductor multi=1 gdis=13.0u lay=9 nr=2 \
        rad=L_Radius spacing=3u w=3u 
 

