// Generated for: spectre
// Generated on: Oct  3 17:54:59 2019
// Design library name: brbcad
// Design cell name: test_class_ab
// Design view name: schematic
simulator lang=spectre
global 0
parameters fbias=10 lbias=500n fin=100 fp=100 lin=100n lp=100n cload=1p vcmo=600m mamp=1


include "/shares/techfile/PTM/Finfet14nm/Finfet_HP_14nm.scs"

// Library name: brbcad
// Cell name: differ_amplifier_gain10
// View name: schematic
subckt differ_amplifier_gain10 VDD VSS vin vip voutn voutp
    M20 (net22 net22 VSS VSS) nfet w=300n l=100n m=1
    M15 (voutp vip net13 VSS) nfet w=300n l=100n m=1
    M18 (net13 net22 VSS VSS) nfet w=600n l=1u m=1
    M0 (voutn vin net13 VSS) nfet w=300n l=100n m=1
    M19 (net22 net22 VDD VDD) pfet w=600n l=100n m=1
    M17 (voutp voutp VDD VDD) pfet w=600n l=100n m=1
    M8 (voutn voutp VDD VDD) pfet w=600n l=100n m=1
ends differ_amplifier_gain10
// End of subcircuit definition.

// Library name: brbcad
// Cell name: classab
// View name: schematic
subckt classab VDD VSS vin vip voutn voutp
parameters _par0 _par1 _par2 _par3
    M15 (voutp vip VSS VSS) nfet w=300n l=_par0 m=_par1
    M0 (voutn vin VSS VSS) nfet w=300n l=_par0 m=_par1
    M17 (voutp voutp VDD VDD) pfet w=600n l=_par2 m=_par3
    M8 (voutn voutp VDD VDD) pfet w=600n l=_par2 m=_par3
ends classab
// End of subcircuit definition.

// Library name: brbcad
// Cell name: test_class_ab
// View name: schematic
I29 (rout1 rout2) isource mag=1A type=dc
C5 (rout1 VSS) capacitor c=cload
C4 (rout2 VSS) capacitor c=cload
C3 (voutn2 VSS) capacitor c=cload
C0 (voutn1 VSS) capacitor c=cload
V18 (net056 VSS) vsource dc=500m mag=1 type=dc
V16 (net049 VSS) vsource dc=vcmo type=dc
V14 (net034 VSS) vsource dc=vcmo type=dc
V9 (VCM VSS) vsource dc=500.0m mag=0 type=dc
V8 (VDD2 0) vsource dc=0.8 type=dc
V2 (net07 VSS) vsource dc=0 mag=500.0m phase=0 type=dc
V1 (VSS 0) vsource dc=0 type=dc
v0 (VDD 0) vsource dc=0.8 type=dc
R10 (net056 cap_cal) resistor r=1K
R7 (net04 rout2) resistor r=1M
R6 (rout1 net04) resistor r=1M
R5 (net06 voutn2) resistor r=1M
R4 (voutn1 net06) resistor r=1M
E2 (vip VCM net07 VSS) vcvs gain=1
E1 (vin VCM VSS net07) vcvs gain=1
//intentionally added
E12(outd VSS  voutn1 voutn2) vcvs gain=1
E13(outr VSS  rout1 rout2) vcvs gain=1

I26 (VDD2 VSS net049 net04 net011 net047) differ_amplifier_gain10
I23 (VDD VSS net034 net06 net037 net026) differ_amplifier_gain10
I33 (VDD2 VSS cap_cal cap_cal net052 net064) classab _par0=lin _par1=fin \
        _par2=lp _par3=fp
I28 (VDD2 VSS VCM VCM rout1 net046) classab _par0=lin _par1=fin _par2=lp \
        _par3=fp
I27 (VDD2 VSS VCM VCM rout2 net045) classab _par0=lin _par1=fin _par2=lp \
        _par3=fp
I21 (VDD VSS vip vin voutn2 voutp2) classab _par0=lin _par1=fin _par2=lp \
        _par3=fp
X20 (VDD VSS vin vip voutn1 voutp1) classab _par0=lin _par1=fin _par2=lp \
        _par3=fp
M10 (rout1 net011 VDD2 VDD2) pfet w=600n l=lbias m=fbias
M9 (rout2 net011 VDD2 VDD2) pfet w=600n l=lbias m=fbias
M6 (voutn1 net037 VDD VDD) pfet w=600n l=lbias m=fbias
M2 (voutn2 net037 VDD VDD) pfet w=600n l=lbias m=fbias
M8 (rout2 net011 VSS VSS) nfet w=300n l=lbias m=fbias
M7 (rout1 net011 VSS VSS) nfet w=300n l=lbias m=fbias
M5 (voutn1 net037 VSS VSS) nfet w=300n l=lbias m=fbias
M4 (voutn2 net037 VSS VSS) nfet w=300n l=lbias m=fbias
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 multithread=on nthreads=4 scalem=1.0 scale=1.0 gmin=1e-12 \
    rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
ac ac start=1k stop=1T annotate=status 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub

simulator lang=spice

//gain
.MEAS AC gain MAX vdb(outd)
//pole1
.MEAS AC pole1 WHEN vp(outd) = -45
//zero
.MEAS AC zero WHEN vp(outd) = -135
//Rout
.MEAS AC ROUT MAX vm(outr)
//GM
.MEAS AC gmax MAX vm(outd)
.MEAS AC GM PARAM = PAR('gain/rout')
//power
.MEAS DC pwr AVG I(v0)
//SWINGP
.MEAS DC vovp PARAM = 'lv10(X20.M8)'
.MEAS DC vdsp PARAM = 'lx3(X20.M8)'
.MEAS DC swingp PARAM=PAR('-vdsp-vovp')
//SWINGN
.MEAS DC vovn PARAM = 'lv10(X20.M0)'
.MEAS DC vdsn PARAM = 'lx3(X20.M0)'
.MEAS DC swingn PARAM=PAR('vdsn-vovn')

.MEAS DC cmo AVG V(rout1)

//Cin
.MEAS AC Cin3db WHEN vdb(cap_cal) =-3
.MEAS AC Cin PARAM=PAR('1/2/3.1415/1000/Cin3db')
//Cout
.MEAS AC cout3db WHEN vp(outr) = 135
.MEAS AC COUT PARAM=PAR('1/2/3.1415/ROUT/cout3db')




